US04348223
(a) Preparation of 1-(methoxymethyl)-3-nitrobenzene
A 500-milliliter flask equipped with a reflux condenser and a magnetic stirring bar was charged with 17.1 grams (0.1 mole) of 3-nitrobenzyl chloride in 200 milliliters of methanol. To this stirred solution was added 10.8 grams (0.2 mole) of sodium methoxide. Exothermic heating was observed. The reaction mixture was heated to reflux and maintained at reflux for 22 hours. The reaction mixture was then cooled, filtered, and the filtrate was transferred to a separatory funnel wherein it was diluted with 400 milliliters of ethyl acetate and consecutively extracted with 400 milliliters of water and 400 milliliters of saturated brine respectively. The organic phase was separated, dried over magnesium sulfate, and concentrated on a rotary evaporator at 55° C., leaving a brown liquid. The brown liquid was charged to a distillation flask and distilled at a pressure of 2.3 millimeters of mercury. A main fraction (15.1 grams) was collected, said fraction having a boiling point of 118°-120° C. at 2.3 mm Hg pressure. This main fraction was identified by NMR spectroscopy as 1-(methoxymethyl)-3-nitrobenzene.

reactant | 3-nitrobenzyl chloride | 0.1 mole, 17.1 grams | [N+](=O)([O-])C=1C=C(CCl)C=CC1 | C7H6ClNO2
reactant | sodium methoxide | 0.2 mole, 10.8 grams | C[O-].[Na+]
solvent | methanol | 200 milliliters | CO | CH4O
product | 1-(methoxymethyl)-3-nitrobenzene | COCC1=CC(=CC=C1)[N+](=O)[O-] | C8H9NO3
